US04362738
1-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)benzoyloxy]-2-hydroxy-ethane
41 gm (0.1 mol) of 4-amino-3-bromo-5-(N-ethylcyclohexylaminomethyl)-benzoyl chloride hydrochloride were dissolved in 250 ml of ethylene glycol, and after addition of 17 gm (0.22 mol) of pyridine the solution was heated to 105° C. for one hour. After cooling to room temperature, the mixture was diluted with 1 liter of water. After addition of aqueous sodium hydroxide the mixture was extracted with ether, the ether extract was dried over sodium sulfate and evaporated to dryness. The residue was chromatographed on silicagel (eluant: ethyl acetate). After evaporation of the eluate, a resin was obtained which was converted into crystals by trituration with petroleum ether. The crystals obtained were recrystallized from ethanol.

reactant | 4-amino-3-bromo-5-(N-ethylcyclohexylaminomethyl)-benzoyl chloride hydrochloride | 0.1 mol, 41 gm | Cl.NC1=C(C=C(C(=O)Cl)C=C1CN(CC)C1CCCCC1)Br
reactant | pyridine | 0.22 mol, 17 gm | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene glycol | 250 ml | C(CO)O | C2H6O2
solvent | water | 1 liter | O | H2O
product | 1-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)benzoyloxy]-2-hydroxy-ethane | NC1=C(C=C(C(=O)OCCO)C=C1CN(CC)C1CCCCC1)Br | C18H27BrN2O3
